US07410986B2
To a cold (0° C.) suspension of lithium aluminum hydride (0.077 g, 1.62 mmol) in THF (3 mL) under an argon atmosphere was added dropwise a solution of tert-butyl 2-amino-4-(3-aminophenyl)-6-(2-hydroxyphenyl)nicotinate (0.353 g, 0.935 mmol) in THF (2 mL) with stirring. After 30 minutes, the mixture was allowed to warm to room temperature, and the stirring was continued at room temperature for 2 hrs. and at 50° C. overnight. After cooled to room temperature, the reaction mixture was quenched with water and extracted with ethyl acetate. The separated organic phase was washed with brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by recrystallization from methanol to give 2-[6-amino-4-(3-aminophenyl)-5-(hydroxymethyl)-2-pyridinyl]phenol as a pale yellow solid (0.133 g, yield 45%).

reactant | lithium aluminum hydride | 1.62 mmol, 0.077 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tert-butyl 2-amino-4-(3-aminophenyl)-6-(2-hydroxyphenyl)nicotinate | 0.935 mmol, 0.353 g | NC1=C(C(=O)OC(C)(C)C)C(=CC(=N1)C1=C(C=CC=C1)O)C1=CC(=CC=C1)N | C22H23N3O3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-[6-amino-4-(3-aminophenyl)-5-(hydroxymethyl)-2-pyridinyl]phenol | 0.133 g, yield 45% | NC1=C(C(=CC(=N1)C1=C(C=CC=C1)O)C1=CC(=CC=C1)N)CO | C18H17N3O2
